US05143914
5M solution of n-butyllithium (2.2 mL; 5.5. mM) was slowly added to a solution of 2-bromo-5(3'-bromophenyl)thiophene (1.59 g; 5 mM) in 10 mL of tetrahydrofuran at -78° under nitrogen. The mixture was stirred 10 mins. and dimethyldisulfide (1.35 mL; 15 mM) was added slowly. This mixture was stirred overnight at R.T. after which 5 mL of sat'd. ammonium chloride and 15 mL of ethyl acetate were added. The organic phase was separated, washed with 2×5 mL of sat'd. sodium chloride, and dried over anhyd. magnesium sulfate. Solvent removal and purification on silica gel with hexane as solvent gave 2-methylthio-5-(3'-bromophenyl)thiophene as a colorless oil boiling at 142°-5°/0.5 mm.

reactant | n-butyllithium | 2.2 mL | C(CCC)[Li]
reactant | 2-bromo-5(3'-bromophenyl)thiophene | 5 mM, 1.59 g | BrC=1SC(=CC1)C1=CC(=CC=C1)Br | C10H6Br2S
reactant | dimethyldisulfide | 15 mM, 1.35 mL | CSSC | C2H6S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-methylthio-5-(3'-bromophenyl)thiophene | CSC=1SC(=CC1)C1=CC(=CC=C1)Br | C11H9BrS2
